US07786330B2
To a 500 ml flask were added 38.4 (0.3 mol) of 3-fluorocatechol [H], 12 g (0.3 mol) of sodium hydroxide and 100 ml of ethanol. After cooling to around 10° C., 100 ml of an ethanol solution of 76.3 g (0.7 mol) of bromoethane was slowly added. After the termination of the addition, they were reacted under a reflux temperature for 5 hours. After the termination of the reaction, dichloromethane was added, followed by extraction. The extraction liquid was washed with water and dried, and the solvent was removed by distillation to obtain 45.5 g of 1,2-diethoxy-3-fluorobenzene [G1] as an oily product. The process yield was 81%.

reactant | 3-fluorocatechol | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | sodium hydroxide | 0.3 mol, 12 g | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | bromoethane | 0.7 mol, 76.3 g | BrCC | C2H5Br
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2-diethoxy-3-fluorobenzene | 45.5 g, yield was 81% | C(C)OC1=C(C(=CC=C1)F)OCC | C10H13FO2
